US09023849B2
4-Amino-2-[1-(2,3-difluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-5,5-dimethyl-5,7-dihydro-6H-pyrrolo[2,3-d]pyrimidin-6-one
400 mg (1.11 mmol) of 1-(2,3-difluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidine-3-carboximidamide were admixed with 3 ml of tert-butanol, 277 mg (1.33 mmol) of methyl 3,3-dicyano-2,2-dimethylpropanoate dissolved in 2 ml of tert-butanol and 175 mg (1.56 mmol) of potassium tert-butoxide, and the mixture was heated to reflux for 24 h. A little water was added and the reaction solution was purified by means of preparative HPLC (eluent: acetonitrile/water, gradient 30:70→95:5). The product-containing fractions were concentrated and the residue was stirred with water/isopropanol. The solids were filtered off and purified again by means of preparative HPLC (eluent: acetonitrile/water with 0.1% hydrochloric acid, gradient 20:80→100:0). 170 mg (35% of theory) of the target compound were obtained.

reactant | 1-(2,3-difluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidine-3-carboximidamide | 1.11 mmol, 400 mg | FC1=C(CN2N=C(C=3C2=NC(=NC3)C)C(N)=N)C=CC=C1F | C14H12F2N6
reactant | methyl 3,3-dicyano-2,2-dimethylpropanoate | 1.33 mmol, 277 mg | C(#N)C(C(C(=O)OC)(C)C)C#N | C8H10N2O2
reactant | potassium tert-butoxide | 1.56 mmol, 175 mg | CC(C)([O-])C.[K+]
reactant | water | O | H2O
solvent | tert-butanol | 2 ml | C(C)(C)(C)O | C4H10O
solvent | tert-butanol | 3 ml | C(C)(C)(C)O | C4H10O
product | 4-Amino-2-[1-(2,3-difluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-5,5-dimethyl-5,7-dihydro-6H-pyrrolo[2,3-d]pyrimidin-6-one | NC=1C2=C(N=C(N1)C1=NN(C3=NC(=NC=C31)C)CC3=C(C(=CC=C3)F)F)NC(C2(C)C)=O | C21H18F2N8O
